US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLSULFINYL)PHENYL]PIPERIDINE
Preparation according to Example 2. 1-ethyl-4-[2-fluoro-3-(methylsulfinyl)phenyl]-1,2,3,6-tetrahydropyridine (150 mg, 0.56 mmol), formic acid (0.1 ml, 2.8 mmol), palladium on carbon (0.1 g), isopropanol (20 ml). MS m/z (relative intensity, 70 eV) 269 (M+, 11), 254 (bp), 239 (84), 84 (13), 57 (11).

reactant | 1-ethyl-4-[2-fluoro-3-(methylsulfinyl)phenyl]-1,2,3,6-tetrahydropyridine | 0.56 mmol, 150 mg | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)S(=O)C)F | C14H18FNOS
reactant | formic acid | 2.8 mmol, 0.1 ml | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLSULFINYL)PHENYL]PIPERIDINE | C(C)N1CCC(CC1)C1=C(C(=CC=C1)S(=O)C)F | C14H20FNOS
